Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Seizures
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old primarily ___ gentleman who 
was found confused and wandering in the streets earlier today. 
There was a mention of possible seizure-like activity. He was 
taken to ___ where he continued to be 
confused and agitated. He was therefore given 5mg IM haldol
around 4pm and 2mg IM lorazepam around 5pm to sedate him long 
enough to obtain a NCHCT, which showed a 2cm mass-like 
hyperdensity in the L frontal lobe. The hyperdensity was 
associated with hemorrhage causing mass effect on the L lateral
ventricle but no evidence of herniation. He was loaded with 1g 
of IV dilantin around 5pm and transferred urgently to ___ via 
Medflight for further management.

The patient denies loss of consciousness and is able to 
recollect the events leading up to his being brought to ___. He 
says he was with his nephew leaving his nephew's house earlier 
that day when he noticed the right side of his body grow cold. 
In fact, he says for a week now he has been experiencing 
intermittent episodes where his left lower extremity feels 
"cold" and he has carpopedal spasms. He currently denies 
headache, vision changes, motor or
sensory changes. He primarily complains of pain from his Foley 
catheter.

 
Past Medical History:
PMH: kidney stones

PSH: jaw reconstruction in ___ for congenital craniofacial
defect

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission:
VS - 98.2, 97, 103/63, 16, 100%RA
___ Exam
___: regular, mildly tachycardic, no M/R/G
PULM: CTAB, no W/R/R, no respiratory distress
ABD: soft, NT/ND
EXTREM: warm, dry, no C/C/E

NEURO EXAM
Mental Status
- lethargic/drowsy but arousable; GCS=13
- follows commands, answers questions appropriately
- oriented to person, thought he was still at ___,
and could not provide the month or year
- speaks a little ___ but speech is slurred/mumbled; content
is appropriate
Cranial Nerves
- appears to have a L facial droop (this is reportedly his
baseline)
- pupils equal and reactive (3 to 2mm bilaterally)
- no other obvious CN deficits
Motor
- normal muscle tone and bulk
- strength ___ in all extremities
- slight pronator drift (unable to ascertain whether this is due
to lethargy)
Reflexes
- DTRs normal to brisk in BUE
- Babinski negative

On Discharge:
___: awake, alert, NAD
HEENT: craniofacial malformation notably, poor dentition
___: S1S2 RRR
Chest: CTAB 
Abdomen: +BS, soft, NT ND
Extremities: warm, well perfused

Neuro:
Mental Status: awake, alert and oriented, speaks fluently in 
___
Cranial Nerves: L facial droop at baseline
Motor: full strenght x 4, no drift
Sensory: grossly intact
Coordination: no dysmetria appreciated

 
Pertinent Results:
CT Head ___. No significant interval change in appearance of the left 
frontal lobe 
Preliminary Reporthemorrhagic mass with surrounding vasogenic 
edema.  
  
2. No shift of normally midline structures or central 
herniation. 
  
3. No new intracranial hemorrhage 

MRI Head ___ cm T1 focus of hemorrhage which may represent a cavernoma. 
There is 
a prominent vessel just inferior and lateral to it which may 
represent a DVA or less likely a small AVM. Underlying lesion 
cannot be excuded for which follow up is recommended. There is 
surrounding vasogenic edema and mass effect over adjacent brain 
parenchyma with 1 cm herniation of the cerebellar tonsils 
through the foramen magnum 

EEG ___
Negative for seizures

___ 05:56PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:00AM BLOOD Phenyto-8.1*
___ 01:26AM BLOOD Phenyto-14.3
 
Brief Hospital Course:
ICU Course: Mr. ___ was admitted to the neurosurgery team and 
the ICU. He had a seizure upon admission and became hypotensive 
and was intubated. He was bolused with 1g of Dilantin and 
started on 100q8 dosing.  He stablized in the ICU. 24 hour EEG 
was placed and neurology was consulted. He was placed on a 
propofol drip and required intermittent versed to help with 
seizure control overnight. 
 On the morning of ___ he was seen off sedation and was 
following commands. He was extubated without difficulty. After 
extubation his neuro exam was intact with the exception of a 
pre-existing left facial droop from previous facial surgery. He 
remained in the ICU overnight without issue. His EEG was 
negative on ___ and the neurology team recommended to continue 
dilantin at 100mg q8. He was transferred to the floor on ___ and 
continued on EEG monitoring. 

Course on the floor
Neuro: Mr. ___ was taken off Dilantin on ___ and started 
on Keppra monotherapy. He continued to be monitored on LTM 
without evidence of seizure activity but EEG did show some 
bursts of generalized rhthymic frontal ___ theta frequency 
activity with left frontal predominance that did not have any 
clinical correlation. He had one pushbutton ___ in the 
morning for headache and he was asking for pain medications 
without EEG changes. EEG was discontinued on ___ and he 
remained in the hospital for evaluation of clinical events while 
level of PHT was allowed to decrease.  He had no events into 
___ and was cleared for discharge home.  

Cardio/Pulm: stable on RA while on the floor but with chest pain 
on the evening of ___. This rapidly resolved an EKG performed 
at that time was found to be normal  

___: followed Mr. ___ while inpatient and he is cleared to 
be discharged home with home ___. 

 
Medications on Admission:
None
 
Discharge Medications:
1. levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*2*
2. Outpatient Physical Therapy
Per ___ recommendations
3. Outpatient Occupational Therapy
Per OT recommendations
4. azithromycin 250 mg Tablet Sig: One (1) Tablet PO once a day 
for 1 days.
Disp:*1 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures
R frontal brain mass

 
Discharge Condition:
AOx3. Activity as tolerated. 

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ on 
___ due to seizures. You were found to have a 
cavernoma and were followed by neurosurgery. This does not 
require any intervention at this time. On the neurology service 
you were monitored for any ongoing seizure activity and 
anti-epileptic medications were adjusted. 
 
We made the following changes to your medications:
Started Keppra 1000mg twice daily
You need one more dose of Azithromycin 250mg tomorrow to 
complete your course of antibiotics

If you experience any of the below listed danger signs, please 
call your doctor or go to the nearest Emergency Department.
 
It was a pleasure taking care of you during your hospital stay.

•Take your pain medicine as prescribed if needed. You do not 
need to take it if you do not have pain.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•DO not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. until follow up.

•***You have been prescribed Keppra (levetiracetam),
CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___